Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left ICA aneurysm
 
Major Surgical or Invasive Procedure:
___ - Cerebral angiogram for pipeline embolization of 
left ICA aneurysm
 
History of Present Illness:
___ is a ___ year old female with a known left ICA 
aneurysm who presented electively on ___ for a cerebral 
angiogram for pipeline embolization.
 
Past Medical History:
- Diverticuli
- Dyslipidemia
- Glaucoma
- History of tobacco use, quit in ___
- Hypertension
- Osteoarthritis of knees bilaterally
- Osteopenia
- S/p clipping of 2 angiodysplastic lesions
- S/p resection of thoracic Schwannoma in ___
- S/p total abdominal hysterectomy in ___
 
Social History:
___
Family History:
No known family history of cerebrovascular malformation.
 
Physical Exam:
On Discharge:
-------------
General:

VS: T 97.6F, HR 81, BP 122/49, RR 16, O2Sat 98% on room air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious [ ]None
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Pupils: PERRL
EOMs: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trap   Deltoid   Biceps   Triceps   Grip
Right5      5         5        5         5
Left5      5         5        5         5

        IP   Quad   Ham   AT   ___   ___
Right5    5      5     5    5     5
Left5    5      5     5    5     5

Sensation: Intact to light touch.

Puncture Site:
- Dressing clean, dry, intact
- Soft, no hematoma
- Palpable pulses
 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ year old female with a known left ICA aneurysm.

#Left ICA aneurysm
The patient was taken to the Angiography Suite on ___ for 
a cerebral angiogram for pipeline embolization of the left ICA 
aneurysm. The procedure was uncomplicated. Please see OMR for 
further intraprocedural details. She was extubated in the 
Angiography Suite and recovered in the PACU. She was transferred 
to the step down unit ___ for close neurologic 
monitoring. Several hours ___, the patient 
experienced bleeding from the puncture site. Pressure was held 
for 20 minutes and she was kept flat for an additional 2 hours. 
The bleeding resolved. She remained neurologically stable 
without any bleeding issues. On ___, she was afebrile 
with stable vital signs, mobilizing independently, tolerating a 
diet, voiding and stooling without difficulty, and her pain was 
well controlled with oral pain medications. She was discharged 
home on ___ in stable condition.

#Disposition
The patient mobilized with the nurse ___ and was 
determined to be independent with mobilization. She was 
discharged home on ___ in stable condition.
 
Medications on Admission:
- aspirin 325mg PO once daily
- atorvastatin 40mg PO once daily
- clopidogrel 75mg PO once daily
- latanoprost 0.005% eye drops 1 drop ___
- lisinopril 10mg PO once daily
- metoprolol succinate ER 50mg PO once daily
- mirtazapine 7.5mg PO ___
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Do not exceed 3000mg in 24 hours.  
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
Do not drive while taking. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours as 
needed for pain Disp #*12 Tablet Refills:*0 
3.  Aspirin 325 mg PO DAILY 
It is important that you take this medication as instructed. 
RX *aspirin 325 mg 1 tablet(s) by mouth once daily Disp #*28 
Tablet Refills:*3 
4.  Atorvastatin 40 mg PO QPM  
5.  Clopidogrel 75 mg PO/NG DAILY 
It is important that you take this medication as instructed. 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once daily Disp #*28 
Tablet Refills:*3 
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES ___  
7.  Lisinopril 10 mg PO DAILY  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  Mirtazapine 7.5 mg PO ___  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ICA aneurysm 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, independent.
 
Discharge Instructions:
Care Of The Puncture Site:
- You will have a small bandage over the puncture site. 
- Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
- Keep the puncture site clean with water and soap and dry it 
carefully.
- You may cover the puncture site with a Band-Aid if you wish.

Activity:
- You may gradually return to your normal activities, but we 
recommend that you take it easy for the next ___ hours to avoid 
bleeding from the puncture site.
- You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
- Heavy lifting, running, climbing, and other strenuous exercise 
should be avoided for 10 days. This is to prevent bleeding from 
the puncture site.
- You may take a shower, but do not go swimming or submerge 
yourself in water for 5 days after your procedure.

Medications:
- Resume your normal medications and begin new medications as 
directed.
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- You have been instructed to take aspirin and clopidogrel. Do 
not take any other blood thinning medications such as ibuprofen, 
warfarin (Coumadin), etc. until cleared by your neurosurgeon.

What You ___ Experience:
- Mild tenderness and bruising at the puncture site.
- Soreness in your arms from the intravenous lines.
- Mild to moderate headaches that last several days to a few 
weeks.
- Fatigue is very normal.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high fiber diet. You may also try an over-the-counter 
stool softener if needed.

Please Call Your Neurosurgeon At ___ For:
- Fever greater than 101.4 degrees Fahrenheit.
- Severe pain, redness, swelling, or drainage from the puncture 
site.
- Severe headaches not adequately relieved with prescribed pain 
medications.
- Extreme sleepiness or not being able to stay awake.
- Any new problems with your vision or ability to speak.
- Weakness or changes in sensation in your face, arms, or legs.
- Nausea or vomiting.
- Seizures.
- Blood in your urine or stool.
- Constipation.
 
Followup Instructions:
___